US04179549
Acrylamide/DMAEMA 1/1 Molar
As can be seen from the Table, after 7 hours g.l.c. shows only 3.5% residual DMAEMA but 35.7% acrylamide, indicating an approximate quat content of 35% (based on the DMAEMA in the copolymer). The percentage quaternization as determined by g.l.c. is generally in good agreement with the values obtained on similar systems by Nmr analysis.

reactant | DMAEMA | CC(=C)C(=O)OCCN(C)C | C8H15NO2
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
product | Acrylamide DMAEMA | C(C=C)(=O)N.CC(=C)C(=O)OCCN(C)C | InChI=1S/C8H15NO2.C3H5NO/c1-7(2)8(10)11-6-5-9(3)4;1-2-3(4)5/h1,5-6H2,2-4H3;2H,1H2,(H2,4,5)
